US04954507
A mixture of 600 mg (2.13 mmoles) 1-(1,1-dimethylethyl)-1,4-dihydro-6,7-difluoro-4-oxo-3-quinolinecarboxylic acid, 700 mg (3.2 mmoles) of 3-trifluoroacetylamino pyrrolidine hydrochloride and 1.3 mL (8.5 mmoles) of 1,8-diazabicyclo[5.4.0]undec-7-ene in 3 mL pyridine was stirred 30 minutes at room temperature, evaporated to dryness and poured into water. The pH was adjusted to 7.5 with 1N hydrochloric acid. The precipitate was filtered to give 430 mg of 7-(3-trifluoroacetylamino-1-pyrrolidinyl)-1-(1,1-dimethylethyl)-1,4-dihydro-6-fluoro-4-oxo-3-quinolinecarboxylic acid. mp 200° C. dec. 409 mg (0.92 mmole) of that compound was suspended in 2 mL 1N NaOH and refluxed 2 hours. The solution was cooled and diluted with water, the pH was adjusted to 7.5 with 10% acetic acid. The precipitate was filtered, washed with water, dried and recrystallized as an hydrochloride in ethanol to give 180 mg of titled compound. MP>270° C.

reactant | 1-(1,1-dimethylethyl)-1,4-dihydro-6,7-difluoro-4-oxo-3-quinolinecarboxylic acid | 2.13 mmoles, 600 mg | CC(C)(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C14H13F2NO3
reactant | 3-trifluoroacetylamino pyrrolidine hydrochloride | 3.2 mmoles, 700 mg | Cl.FC(C(=O)NC1CNCC1)(F)F
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 8.5 mmoles, 1.3 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 7-(3-trifluoroacetylamino-1-pyrrolidinyl)-1-(1,1-dimethylethyl)-1,4-dihydro-6-fluoro-4-oxo-3-quinolinecarboxylic acid | 430 mg | FC(C(=O)NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1)C(C)(C)C)C(=O)O)=O)F)(F)F | C20H21F4N3O4
